US07105682B2
A mixture of 6-aminoindazole (6.7 g) and 2-chloronicotinic acid (8 g) was heated neat at 150° C. for 2 h. The reaction was cooled and washed with acetone to give 2-(1H-indazol-6-ylamino)pyridine-3-carboxylic acid.

reactant | 6-aminoindazole | 6.7 g | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | 2-chloronicotinic acid | 8 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
product | 2-(1H-indazol-6-ylamino)pyridine-3-carboxylic acid | N1N=CC2=CC=C(C=C12)NC1=NC=CC=C1C(=O)O | C13H10N4O2
